US04528382
N-Methyl Benzimidoyl Chloride
N-Methyl benzamide (55.97 g., 418 mmole) and thionyl chloride (114.7 g, 0.96 mole) were treated as in Example I. Yield 58.4 g (91%) of the title compound, b.p. 80°-90° C. (~0.1 mm Hg).

reactant | N-Methyl benzamide | 418 mmole, 55.97 g | CNC(C1=CC=CC=C1)=O | C8H9NO
reactant | thionyl chloride | 0.96 mole, 114.7 g | S(=O)(Cl)Cl | Cl2OS
product | N-Methyl Benzimidoyl Chloride | Yield 58.4 g, 91% | CN=C(C1=CC=CC=C1)Cl | C8H8ClN
